US08022206B2
(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)acetonitrile
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), DIPEA (16.5 μL, 0.0947 mmol) and DMF (1.00 mL, 12.9 mmol) were mixed. Bromoacetonitrile (1.7 μL, 0.026 mmol) was added at last at 0° C. The mixture was stirred at 0° C. for 2 hours. Crude was passed through SCX-2 SPE, and the product was released by 2 M NH3 in methanol and purified on the MDPS. MS (ES+): m/z 461.03/463.05 (100/81) [MH+]. HPLC: tR=0.83 min (HPLC-ACQUITY, Analytical). 1H NMR (400 MHz, DMSO-d6): δ=1.82 (d, J=6.8 Hz, 3H), 2.46 (br. s., 2H), 2.65-2.74 (m, 2H), 3.19-3.22 (m, 2H), 3.85 (s, 2H), 5.60 (s, 2H), 6.21 (q, J=6.6 Hz, 1H), 6.31 (br. s., 1H), 7.45 (t, J=8.7 Hz, 1H), 7.52 (dd, J=9.0, 5.2 Hz, 1H), 7.78 (s, 1H), 8.30 (s, 1H).

reactant | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | DIPEA | 0.0947 mmol, 16.5 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 12.9 mmol, 1.00 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetonitrile | 0.026 mmol, 1.7 μL | BrCC#N | C2H2BrN
reactant | NH3 | 2 M | N | H3N
solvent | methanol | CO | CH4O
product | (4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)acetonitrile | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)CC#N)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C22H19Cl2FN4O2
